US06479531B1
Step a. 5-[2-(Adamantan-1-yloxy)-1-hydroxy-ethylidene]-2,2-dimethyl-[1,3]dioxane-4,6-dione
A mixture of (adamantan-1-yloxy)-acetic acid (Example 216, step a) (32.3 g, 0.153 mol) and 1,1′-carbonyl-diimidazole (27.6 g, 0.17 mol) in anhydrous DCM (600 ml) was stirred at 0° C. for 15 min, then at room temperature for 75 min. The mixture was concentrated in vacuo (˜300 ml) and the solution was added dropwise over 20 min to a solution of 2,2-dimethyl-1,3-dioxan-4,6-dione (22.1 g, 0.153 mol) and pyridine (30 ml, 0.371 mol) in anhydrous DCM (450 ml) at 0° C. under argon. The mixture was allowed to warm to room temperature and stirred for 16 h. The solution was washed with 2M HCl (2×500 ml), brine (500 ml) and dried (MgSO4). Filtration and evaporation gave the product as a white solid, which was washed with hexane, isolated by filtration and dried (50.1 g, 97%). 1H NMR (300MHz, CDCl3) 4.92 (2H, s), 2.19 (3H, br s), 1.82 (6H, s), 1.74 (6H, s), 1.64 (6H, m).

reactant | (adamantan-1-yloxy)-acetic acid | C12(CC3CC(CC(C1)C3)C2)OCC(=O)O | C12H18O3
reactant | 1,1′-carbonyl-diimidazole | 0.17 mol, 27.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,2-dimethyl-1,3-dioxan-4,6-dione | 0.153 mol, 22.1 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 0.371 mol, 30 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 600 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 450 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-(Adamantan-1-yloxy)-1-hydroxy-ethylidene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | C12(CC3CC(CC(C1)C3)C2)OCC(O)=C2C(OC(OC2=O)(C)C)=O | C18H24O6
